US05602277
To sodium dicyanamide in 5 mL of deionized water was added dropwise a solution of methyl 3-aminobenzoate (Aldrich, 1.30 g, 8.6 mmol) in 15 mL of 1N HCl. The resulting clear solution was heated at 80°-90° C. for 2 h. The precipitate was collected through filtration, crystallized from chloroform-methanol, dried in air followed by drying in a pistol at acetone reflux in vacuo to give 1.84 g (quantitative) of methyl 3-[amino(cyanoiminomethyl)]aminobenzoate as a white solid, mp 203°-204° C.

reactant | sodium dicyanamide | [N-](C#N)C#N.[Na+]
reactant | methyl 3-aminobenzoate | 8.6 mmol, 1.30 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
solvent | water | 5 mL | O | H2O
solvent | HCl | 1N, 15 mL | Cl | ClH
product | methyl 3-[amino(cyanoiminomethyl)]aminobenzoate | 1.84 g | NC(=NC#N)NC=1C=C(C(=O)OC)C=CC1 | C10H10N4O2
